US05034417
A mixture of 2-(3-chloro-4-nitrophenyl)-2-methyl-1,3-dioxolane (9.8 g) and cuprous cyanide (4.0 g) in N,N-dimethylformamide (20 ml) was stirred and refluxed for 11 hours. An aqueous solution of sodium bicarbonate (200 ml) and ethyl acetate (100 ml) were added to the reaction mixture. The mixture was stirred and filtered. The filtrate was separated and the organic layer was dried and evaporated. The oily residue was purified by column chromatography on silica gel (200 g) eluting with a mixture of toluene and ethyl acetate (20:1) to give yellow plates of 2-(3-cyano-4-nitrophenyl)-2-methyl-1,3-dioxolane (4.6 g).

reactant | 2-(3-chloro-4-nitrophenyl)-2-methyl-1,3-dioxolane | 9.8 g | ClC=1C=C(C=CC1[N+](=O)[O-])C1(OCCO1)C | C10H10ClNO4
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(3-cyano-4-nitrophenyl)-2-methyl-1,3-dioxolane | 4.6 g | C(#N)C=1C=C(C=CC1[N+](=O)[O-])C1(OCCO1)C | C11H10N2O4
